2165-10-02 07:02:00 Physician Resident Progress Note
Chief Complaint: cardiac arrrest s/p trach placement
   24 Hour Events:
   Patient recieved one unit of packed RBC overnight for dropping
   pressures.  Patient neuro status continued to improve. Patient now
   following commands, opening eyes and responding appropriately to verbal
   stimulus. Reports no pain.  Have not yet been able to wean off the
   ventilator.
 ARTERIAL LINE - START [**2165-10-1**] 08:00 PM
 MULTI LUMEN - START [**2165-10-1**] 08:00 PM
 INVASIVE VENTILATION - START [**2165-10-1**] 08:30 PM
   FROM OR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-10-1**] 09:40 PM
   Doxycycline - [**2165-10-1**] 11:00 PM
   Clindamycin - [**2165-10-2**] 05:49 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-2**] 04:57 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: reports no pain
   Flowsheet Data as of  [**2165-10-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 74 (71 - 94) bpm
   BP: 109/63(76) {87/45(57) - 150/82(103)} mmHg
   RR: 18 (4 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 115 kg
           Total In:
                                                                  4,275 mL
                                                                  3,169 mL
   PO:
           TF:
   IVF:
                                                                  4,275 mL
                                                                  2,794 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,500 mL
                                                                    940 mL
   Urine:
                                                                  1,300 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,775 mL
                                                                  2,229 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.44/39/71/25/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN: trached, opens eyes in response to name, states he is not in pain,
   nods appropriately to commands
   HEENT: + conjunctival swelling OD, pupils equal, round, reactive
   NECK: supple, emergency trach site with some dried blood
   COR: RRR, no M/G/R appreciated
   PULM: moving air well bilaterally, audible secretions, no w/rales
   ABD: Soft, +distension, tympanic, decreased bowel sounds, but present
   EXT: Left lower extremity s/p fasciotomy with dressing in place
   NEURO: patient able to squeeze hands bilaterally, able to wiggle toes
   on right foot, left foot with 2+ edema, able to move foot slightly
   although unable to wiggle toes
   Labs / Radiology
   78 K/uL
   8.0 g/dL
   140 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   8 mg/dL
   95 mEq/L
   127 mEq/L
   21.5 %
   1.8 K/uL
        [image002.jpg]
                             [**2165-10-1**]  08:16 PM
                             [**2165-10-1**]  08:38 PM
                             [**2165-10-1**]  10:23 PM
                             [**2165-10-2**]  12:50 AM
                             [**2165-10-2**]  01:52 AM
                             [**2165-10-2**]  03:29 AM
   WBC
   1.6
   1.8
   Hct
   25.0
   21.5
   Plt
   72
   78
   Cr
   1.1
   0.9
   TCO2
   26
   27
   28
   27
   Glucose
   135
   140
   Other labs: PT / PTT / INR:13.2/29.2/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 374**]//, ALT / AST:294/568, Alk Phos / T Bili:40/0.9,
   D-dimer:2257 ng/mL, Fibrinogen:367 mg/dL, LDH:777 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment & Plan:63 y/o M with PMHX of MM s/p autologous stem cell
   transplant in 05 presented foot pain and elevated CKs taken the OR
   emergently for fasciotomy due to compartment syndrome, now s/p cardiac
   arrest and emergency tracheotomy.
   .
   # s/p Cardiac Arrest: Etiology unclear, s/p epinephrine x1, CPR for 3
   minutes, may have been due to acute upper airway swelling and hypoxia
   causing cardiac arrest/bradycardia. Pt had rapid return of perfusing
   rhythm.  There was significant concern for initial poor neurologic
   status post code, however, pt has now had return of neuro function and
   following commands. Suspect that meds given peri code contributed to
   poor neuro status initially, now clearing.
   - replete lytes aggressively, now s/p mg and ca repletion, need to
   recheck post repletion lytes, pt is hyponatremic, unclear
   - serially neuro exams improving
   - would like to elucidate etiology of cardiac arrest better
 most
   likely etiology is hypoxia, with history of upper extremity swelling
   would consider allergy leading to angioedema would also consider PE as
   well as hypotension, sepsis
   - considered cooling overnight, deferred with improving neuro exam
   - epinephrine resuscitation can lead to hypotension, pulmonary edema
   - patient was hypotensive overnight, was given 1 unit of pRBCs
   overnight, will order another unit of pRBCs today
   - maintain MAP > 60 and maintain urine output > 30 cc/hr
   .
   # Resp failure: Pt was transferred to ICU s/p cardiac arrest with
   emergency trach and was initially requiring alot of support from vent
   to maintain oxygenation but now weaning quickly.  There was likely a
   component of negative inspiratory pressure pulm edema as seen by
   perihilar fullness on CXR.  This is also suggested by the fact that pt
   weaning quickly from initially high O2 requirement. Also with some
   increased secretions from emergency trach and blood in airways.
   Etiology of tongue swelling early on [**10-1**] and impressive upper airway
   edema seen by Anesthesia impeding the ability to re-intubate is
   unclear. [**Name2 (NI) 11**] have some component of airway collapse and tongue swelling
   from hypothyroidis. Baseline, pt is a Mallampati class III and may have
   pharyngeal airway collapse complicating picture.  Now have definite
   airway with trach, will hold off on steroids for now given mild e/o
   immunosuppression.
   - cont hypoxia may be secondary to atelectasis vs. fluid overload
   secondary to volume repletion vs. Pulmonary embolus
   - wean oxygen/PEEP as tolerated however gases have been limiting us
   overnight (mental status is not a barrier to extubation)
   - will bring PEEP to 10 this morning
   - echo today to rule out blown RV which might indicate PE to explain
   etiology of hypoxia
   - continue aggressive suction
   - decreased RR to improve respiratory alkalosis, new ph 7.44
   - empiric Abx Vanc/Cefepime/Clinda/Doxy for any possible pericode &
   emergency trach aspiration
   - Alb/atrovent nebs
   - NPO for now, working on SBT with trach collar in AM
   .
   # Compartment Syndrome with abscess: Pt has now had definitive surgical
   intervention with fasciotomy and frank pus found after opening
   compartments.  Deep cultures were sent intra-op
   - continue Vanc/Cefepime/clinda for skin flora and ?immunocomp state,
   will cover gram negatives until cultures return, then narrow Abx
   - appreciate ID recs
 ID thinks that this might be a global process,
   reccomending west [**Doctor First Name **] serologies, stool enterovirus, ebv viral load,
   ebv, cmv, hav, hbv, hcv, lyme [**Doctor Last Name 376**] serologies  - HIV testing
   then consider viral load, also MRI
   - if goes to OR would consider muscle biopsy, repeat bacterial cx,
   viral cv
   - f/u cultures, try to get viral cx
   - dressing changes per Vascular
   .
   # Hyponatremia: Pt presented with hyponatremia of unclear etiology, may
   all be secondary to hypothyroidism.  Appears clinically euvolemic to
   hypervolemic currently, no prior h/o SIADH.  Pt having alot of urine
   output currently, it is possible that this hyponatremia & hypochloremia
   is due to volume overload.
   - continue NS IVF
   - serial lytes q6hrs
   - f/u urine lytes & osms
   - continue to treat hypothyroidism
   .
   # Multiple Myelomma: Pt has been on Revlimid which may have been
   contributing to hypothyroidism on admission.  Anemia & thrombocytopenia
   on admission likely due to marrow suppression.
   - holding Revlimid currently
   - f/u Onc recs
   .
   # Elevated CK/Rhabdo: This was likely all secondary to compartment
   syndrome with intracompartment abcess, now s/p fasciotomy
   - continue aggressive IVF, keep UOP>100cc/hr
   - monitor creatinine & f/u renal recs
   - continue local wound care per vasc
   .
   # LFT abnormalities: Elevated transaminases & elevated LDH in setting
   of acute rhabdo. Baseline LFTs normal.  Unclear if this is due to
   atypical infection vs acute rhabdo. Suspect that may continue to worsen
   today as patient is s/p cardiac arrest.
   - trend LFTs
   - f/u hepatitis serologies
   - f/u ID recs & atypical infection work up
   .
   # Anemia: Hct was 34.7 on admission, now down to 21. s/p 1 unit
   transfusion overnight.This is likely complicated by underlying abnormal
   bone marrow on revlimid for MM and intra-operative blood loss.
   - will transfuse another unit this AM, re-check crit and consider
   furthur
   - transfuse to maintain hct>25
   .
   # Hypothyroidism: Pt profoundly hypothyroid with TSH>50 and low T4.
   This may be contributing to tongue swelling on admission.
   -          apprec endo consult, continue Levothyroxine 200mg IV daily
   -          cortisol level pending
   .
   # FEN: NPO for now
   - NG tube today, nutrtion consult for tube feeds
   - NS fluid 150 cc/hr to maintain UOP > 100 cc/hr
   - aggressive repletion of lytes
   .
   # Access: Right femoral line placed during code under non-sterile
   conditions, 22 and 20 IV
   -          PICC line today, plan to d/c fem line pending picc line
   placement and stable blood pressure
   -          Consider central line for better access
   .
   # PPx: Pneumoboots, H2 Blocker, Colace, mouth care
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm: husband [**Name (NI) 366**] [**Name (NI) 367**] (h) [**Telephone/Fax (1) 370**], (w) [**Telephone/Fax (1) 371**], (c)[**Telephone/Fax (1) 372**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   Multi Lumen - [**2165-10-1**] 08:00 PM
   20 Gauge - [**2165-10-1**] 08:00 PM
   18 Gauge - [**2165-10-1**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-10-02 09:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 year old male history of multiple myeloma, htn, hypercholesteremia
   who presented from operating room after cardiac arrest/respiratory
   failure requiring emergent trach. Had initially presented with left leg
   pain and ultimately taken to OR where he had a fasciotomy and there was
   a question of some pus from area. On initial presentation to the ICU
   was severely hypoxic and unresponsive.
   Overnight, oxygenation improved as did mental status.  Received [**4-2**]
   liters IVFs overnight.
   24 Hour Events:
 ARTERIAL LINE - START [**2165-10-1**] 08:00 PM
 MULTI LUMEN - START [**2165-10-1**] 08:00 PM
 INVASIVE VENTILATION - START [**2165-10-1**] 08:30 PM
   FROM OR
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanical ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2165-10-1**] 11:00 PM
   Clindamycin - [**2165-10-2**] 05:49 AM
   Cefipime - [**2165-10-2**] 08:52 AM
   Vancomycin - [**2165-10-2**] 08:53 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-2**] 04:57 AM
   Fentanyl - [**2165-10-2**] 08:52 AM
   Other medications:
   Med list reviewed - see [**Month (only) **] for full list
   Changes to medical and family history:
   Htn
   Hyperchol
   Multiple Myeloma
   Review of systems is unchanged from admission except as noted below
   Review of systems: Trach in place
 unable to obtain
   Flowsheet Data as of  [**2165-10-2**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 69 (69 - 94) bpm
   BP: 108/62(73) {87/45(57) - 150/82(103)} mmHg
   RR: 15 (4 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
           Total In:
                                                                  4,275 mL
                                                                  3,528 mL
   PO:
           TF:
   IVF:
                                                                  4,275 mL
                                                                  3,153 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,500 mL
                                                                  1,180 mL
   Urine:
                                                                  1,300 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,775 mL
                                                                  2,348 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.44/39/71/25/1
   Ve: 10 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   78 K/uL
   140 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   8 mg/dL
   95 mEq/L
   127 mEq/L
   21.5 %
   1.8 K/uL
        [image002.jpg]
                             [**2165-10-1**]  08:16 PM
                             [**2165-10-1**]  08:38 PM
                             [**2165-10-1**]  10:23 PM
                             [**2165-10-2**]  12:50 AM
                             [**2165-10-2**]  01:52 AM
                             [**2165-10-2**]  03:29 AM
   WBC
   1.6
   1.8
   Hct
   25.0
   21.5
   Plt
   72
   78
   Cr
   1.1
   0.9
   TCO2
   26
   27
   28
   27
   Glucose
   135
   140
   Other labs: PT / PTT / INR:13.2/29.2/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 374**]//, ALT / AST:294/568, Alk Phos / T Bili:40/0.9,
   D-dimer:2257 ng/mL, Fibrinogen:367 mg/dL, LDH:777 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure/post-cardiac arrest: most likely
   secondary to airway compromise in peri-operative
   Plan:
   -          Wean FiO2 and PEEP
   -          Continue albuterol/atrovent
   -          ECHO to evaluate RV
   2)       Hypotension: Unclear etiology
 might be related to underlying
   infection or post-arrest physiology.
   Plan: ECHO
             Treat underlying infection
   3)    Sepsis/abscess
          Plan: Vanc/Cefepime/Clinda/doxycyline
   3)       Hyponatremia: urine lytes, Normal saline, and follow sodium
   4)       Rhabdo: infectious etiology vs. statins +/ hypothyroidism:
   follow CPK, IVFs
   5)       Hypothyroid: on synthroid
   6)       FEN: NGT and tube feeds
   Addendum: Right leg pain developed during the day and ultimately found
   to have high compartment pressures and required return to the operating
   room.  Similar findings to yesterday.  Overall, I believe the process
   is likely rhabdo secondary to statins possibly with a component or
   predisposition from hypothyroidism.  Given worsening condition and
   rising CPK, will continue IVFs and alkanalize the urine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   Multi Lumen - [**2165-10-1**] 08:00 PM
   20 Gauge - [**2165-10-1**] 08:00 PM
   18 Gauge - [**2165-10-1**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2165-10-03 07:38:00 Physician Resident Progress Note
Chief Complaint: s/p cardiac arrest, trach, rhabdo in the setting of
   bilateral compartment syndrome
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-10-2**] 11:30 AM
 OR SENT - At [**2165-10-2**] 03:52 PM
 OR RECEIVED - At [**2165-10-2**] 05:31 PM
 MULTI LUMEN - STOP [**2165-10-2**] 05:46 PM
 PICC LINE - START [**2165-10-2**] 06:31 PM
   Yesterday patient returned to OR for elevated compartment pressures of
   40 on the right side. Electrolytes were repleted, patient got 2 Units
   of packed pRBCs for Hct 20.5. Sent ID serologies that were requested.
   Went down on PEEP overnight. Placed PT consult. Pathology from OR
   pending. Urine was alkalinized yesterday with concerns for persistently
   elevated CKs in the setting of rhabdomylosis.  Patient did not have NG
   tube placed yet. Goal is to wean patient off of the vent today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-10-2**] 08:00 PM
   Vancomycin - [**2165-10-2**] 09:00 PM
   Doxycycline - [**2165-10-2**] 10:00 PM
   Clindamycin - [**2165-10-3**] 05:51 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2165-10-2**] 10:00 AM
   Famotidine (Pepcid) - [**2165-10-3**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies any pain
   Flowsheet Data as of  [**2165-10-3**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 71 (62 - 83) bpm
   BP: 129/71(89) {92/57(69) - 146/95(110)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
           Total In:
                                                                  7,863 mL
                                                                  1,323 mL
   PO:
           TF:
   IVF:
                                                                  7,113 mL
                                                                    776 mL
   Blood products:
                                                                    750 mL
                                                                    547 mL
   Total out:
                                                                  2,925 mL
                                                                  1,080 mL
   Urine:
                                                                  2,475 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,938 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 475 (475 - 706) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.48/35/129/25/3
   Ve: 9.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: right conjunctival edema
   Head, Ears, Nose, Throat: Normocephalic, bloody trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended, Obese, decreased bowel sounds,
   typanic
   Extremities: Right: 2+, Left: 2+, dressings in place over legs b/l,
   right dressing is bloody, left dressing appears clean
   Skin:  Warm, 2+ edema of lower extremity bilatearlly
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, able to move both
   legs, cannot really wiggle toes, grasps hand bilaterally
   Labs / Radiology
   80 K/uL
   8.2 g/dL
   118 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   9 mg/dL
   97 mEq/L
   130 mEq/L
   22.1 %
   1.7 K/uL
        [image002.jpg]
                             [**2165-10-2**]  09:57 AM
                             [**2165-10-2**]  10:35 AM
                             [**2165-10-2**]  02:24 PM
                             [**2165-10-2**]  02:58 PM
                             [**2165-10-2**]  06:05 PM
                             [**2165-10-2**]  07:03 PM
                             [**2165-10-2**]  10:35 PM
                             [**2165-10-3**]  12:30 AM
                             [**2165-10-3**]  05:46 AM
                             [**2165-10-3**]  05:50 AM
   WBC
   1.7
   Hct
   21.3
   23.7
   20.5
   22.1
   Plt
   80
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   23
   22
   24
   25
   27
   Glucose
   109
   107
   118
   Other labs: PT / PTT / INR:12.4/27.1/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 393**]//, ALT / AST:294/568, Alk Phos / T Bili:40/0.9,
   D-dimer:2257 ng/mL, Fibrinogen:367 mg/dL, Albumin:3.1 g/dL, LDH:777
   IU/L, Ca++:7.2 mg/dL, Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment & Plan:63 y/o M with PMHX of MM s/p autologous stem cell
   transplant in 05 presented foot pain and elevated CKs taken the OR
   emergently for fasciotomy due to compartment syndrome, now s/p cardiac
   arrest and emergency tracheotomy.
   .
   # s/p Cardiac Arrest: Etiology unclear, s/p epinephrine x1, CPR for 3
   minutes, may have been due to acute upper airway swelling and hypoxia
   causing cardiac arrest/bradycardia. Pt had rapid return of perfusing
   rhythm.  There was significant concern for initial poor neurologic
   status post code, however, pt has now had return of neuro function and
   following commands. Suspect that meds given peri code contributed to
   poor neuro status initially, now clearing.
   - replete lytes aggressively, pt is hyponatremic, still unclear
   etiology
   - serially neuro exams
   - would like to elucidate etiology of cardiac arrest better
 most
   likely etiology is hypoxia, with history of upper airway swelling would
   consider allergy/angioedema, would also consider PE as well as
   hypotension, sepsis
   - cooling protocol was deferred secondary to improving neuro exams
   - echo from yesterday did not show any evidence of right heart strain,
   mild LV hypertrophy, LVEF 50-55% with dilated aortic root, ascending
   aorta moderately dilated, small pericardial effusion
   - goal is to maintain MAP > 60 and maintain urine output > 100 cc/hr
   .
   # Resp failure: Pt was transferred to ICU s/p cardiac arrest with
   emergency trach and was initially requiring alot of support from vent
   to maintain oxygenation but now weaning quickly.  There was likely a
   component of negative inspiratory pressure pulm edema as seen by
   perihilar fullness on CXR.  This is also suggested by the fact that pt
   weaning quickly from initially high O2 requirement. Also with some
   increased secretions from emergency trach and blood in airways.
   Etiology of tongue swelling early on [**10-1**] and impressive upper airway
   edema seen by Anesthesia impeding the ability to re-intubate is
   unclear. [**Name2 (NI) 11**] have some component of airway collapse and tongue swelling
   from hypothyroidism. Baseline, pt is a Mallampati class III and may
   have pharyngeal airway collapse complicating picture.  Now have
   definite airway with trach, will hold off on steroids for now given
   immunosuppression.
   - cont hypoxia may be secondary to atelectasis vs. fluid overload
   secondary to volume repletion vs. Pulmonary embolus
   - wean oxygen/PEEP as tolerated however gases have been limiting us
   overnight (mental status is not a barrier to extubation)
   - will bring PEEP to 10 this morning
   - echo today to rule out blown RV which might indicate PE to explain
   etiology of hypoxia
   - continue aggressive suction
   - decreased RR to improve respiratory alkalosis, new ph 7.44
   - empiric Abx Vanc/Cefepime/Clinda/Doxy for any possible pericode &
   emergency trach aspiration
   - Alb/atrovent nebs
   - NPO for now, working on SBT with trach collar in AM
   .
   # Compartment Syndrome with abscess: Pt has now had definitive surgical
   intervention with fasciotomy and frank pus found after opening
   compartments.  Deep cultures were sent intra-op
   - continue Vanc/Cefepime/clinda for skin flora and ?immunocomp state,
   will cover gram negatives until cultures return, then narrow Abx
   - appreciate ID recs
 ID thinks that this might be a global process,
   reccomending west [**Doctor First Name **] serologies, stool enterovirus, ebv viral load,
   ebv, cmv, hav, hbv, hcv, lyme [**Doctor Last Name 376**] serologies  - HIV testing
   then consider viral load, also MRI
   - if goes to OR would consider muscle biopsy, repeat bacterial cx,
   viral cv
   - f/u cultures, try to get viral cx
   - dressing changes per Vascular
   .
   # Hyponatremia: Pt presented with hyponatremia of unclear etiology, may
   all be secondary to hypothyroidism.  Appears clinically euvolemic to
   hypervolemic currently, no prior h/o SIADH.  Pt having alot of urine
   output currently, it is possible that this hyponatremia & hypochloremia
   is due to volume overload.
   - continue NS IVF
   - serial lytes q6hrs
   - f/u urine lytes & osms
   - continue to treat hypothyroidism
   .
   # Multiple Myelomma: Pt has been on Revlimid which may have been
   contributing to hypothyroidism on admission.  Anemia & thrombocytopenia
   on admission likely due to marrow suppression.
   - holding Revlimid currently
   - f/u Onc recs
   .
   # Elevated CK/Rhabdo: This was likely all secondary to compartment
   syndrome with intracompartment abcess, now s/p fasciotomy
   - continue aggressive IVF, keep UOP>100cc/hr
   - monitor creatinine & f/u renal recs
   - continue local wound care per vasc
   .
   # LFT abnormalities: Elevated transaminases & elevated LDH in setting
   of acute rhabdo. Baseline LFTs normal.  Unclear if this is due to
   atypical infection vs acute rhabdo. Suspect that may continue to worsen
   today as patient is s/p cardiac arrest.
   - trend LFTs
   - f/u hepatitis serologies
   - f/u ID recs & atypical infection work up
   .
   # Anemia: Hct was 34.7 on admission, now down to 21. s/p 1 unit
   transfusion overnight.This is likely complicated by underlying abnormal
   bone marrow on revlimid for MM and intra-operative blood loss.
   - will transfuse another unit this AM, re-check crit and consider
   furthur
   - transfuse to maintain hct>25
   .
   # Hypothyroidism: Pt profoundly hypothyroid with TSH>50 and low T4.
   This may be contributing to tongue swelling on admission.
   -          continue Levothyroxine 200mg IV daily
   -          endocrine does not think hypothyoidism is the etiology of
   patient
s presentation
   -          cortisol level pending
   .
   # FEN: NPO for now
   - NG tube today, nutrtion consult for tube feeds
   - NS fluid 150 cc/hr to maintain UOP > 100 cc/hr
   - aggressive repletion of lytes
   .
   # Access: Right femoral line placed during code under non-sterile
   conditions, 22 and 20 IV
   -          PICC line today, plan to d/c fem line pending picc line
   placement and stable blood pressure
   -          Consider central line for better access
   .
   # PPx: Pneumoboots, H2 Blocker, Colace, mouth care
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm: husband [**Name (NI) 366**] [**Name (NI) 367**] (h) [**Telephone/Fax (1) 370**], (w) [**Telephone/Fax (1) 371**], (c)[**Telephone/Fax (1) 372**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   20 Gauge - [**2165-10-1**] 08:00 PM
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-03 12:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 year old history of multiple myeloma with rhabdo s/p resp/cardiac
   arrest
   Returned to OR for repeat fasciotomy on the right side.  Overnight,
   decreased vent support and is currently on trach shield and doing well.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-10-2**] 11:30 AM
 OR SENT - At [**2165-10-2**] 03:52 PM
 OR RECEIVED - At [**2165-10-2**] 05:31 PM
 MULTI LUMEN - STOP [**2165-10-2**] 05:46 PM
 PICC LINE - START [**2165-10-2**] 06:31 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2165-10-3**] 05:51 AM
   Cefipime - [**2165-10-3**] 08:00 AM
   Vancomycin - [**2165-10-3**] 09:17 AM
   Doxycycline - [**2165-10-3**] 10:05 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-3**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 81 (67 - 83) bpm
   BP: 121/67(82) {109/59(76) - 156/95(110)} mmHg
   RR: 21 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
           Total In:
                                                                  7,863 mL
                                                                  2,288 mL
   PO:
           TF:
   IVF:
                                                                  7,113 mL
                                                                  1,538 mL
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                  2,925 mL
                                                                  1,480 mL
   Urine:
                                                                  2,475 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,938 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 475 (475 - 706) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.48/36/123/25/4
   Ve: 9.3 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   80 K/uL
   118 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   9 mg/dL
   97 mEq/L
   130 mEq/L
   22.1 %
   1.7 K/uL
        [image002.jpg]
                             [**2165-10-2**]  10:35 AM
                             [**2165-10-2**]  02:24 PM
                             [**2165-10-2**]  02:58 PM
                             [**2165-10-2**]  06:05 PM
                             [**2165-10-2**]  07:03 PM
                             [**2165-10-2**]  10:35 PM
                             [**2165-10-3**]  12:30 AM
                             [**2165-10-3**]  05:46 AM
                             [**2165-10-3**]  05:50 AM
                             [**2165-10-3**]  10:07 AM
   WBC
   1.7
   Hct
   23.7
   20.5
   22.1
   Plt
   80
   Cr
   1.0
   1.0
   1.0
   TCO2
   23
   22
   24
   25
   27
   28
   Glucose
   107
   118
   Other labs: PT / PTT / INR:12.4/27.1/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 393**]//, ALT / AST:294/568, Alk Phos / T Bili:40/0.9,
   Differential-Neuts:57.0 %, Band:7.0 %, Lymph:21.0 %, Mono:13.0 %,
   Eos:0.0 %, D-dimer:2257 ng/mL, Fibrinogen:367 mg/dL, Albumin:3.1 g/dL,
   LDH:777 IU/L, Ca++:7.2 mg/dL, Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure
   -          now off ventilator and on trach shield
   -
   2)       Rhabodmyolysis:
   -          Continue to follow CPK levels (still trending up)
   -          Continue fluids with bicarb until CPK going down
   3)       Low grade temperature overnight
   -          will discontinue vancomycin but continue other antibiotics
   for now
   -          continue to monitor fevers
   -          ID following
           4)    Multiple Myleoma
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   20 Gauge - [**2165-10-1**] 08:00 PM
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent:  35 (critically Ill)

2165-10-04 07:51:00 Physician Resident Progress Note
Chief Complaint: 63 year old male with PMHx of MM s/p autologous stem
   cell transplant in [**2162**], presented with foot pain and elevated Cks and
   found to have bilateral compartment syndrome with tracheal swelling
   likely secondary to profound hypothryoidism and concurrent statin use.
   24 Hour Events:
   Patient mental status has much decreased. Patient states he doesn
   know where he is. States that he has
been kidnapped
 from the heme/onc
   floor. No longer oriented to person, time, or place.  Patient refused
   physical exam this morning.  Only changes overnight in medications were
   steroid dose cut in half. Also continued on bicarb/d5w fluids at 75
   cc/hr for continued rhabdomylsis.
 INVASIVE VENTILATION - STOP [**2165-10-3**] 11:00 AM
   FROM OR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-10-3**] 08:00 AM
   Vancomycin - [**2165-10-3**] 09:17 AM
   Clindamycin - [**2165-10-3**] 09:56 PM
   Doxycycline - [**2165-10-3**] 11:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-4**] 04:28 AM
   Other medications:
   65wNaHCO3 at 75 cc/hr
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Neurologic: patient is agitated, writing down that he was kidnapped,
   refusing to cooperate with exam
   Flowsheet Data as of  [**2165-10-4**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 88 (67 - 100) bpm
   BP: 135/65(86) {110/56(72) - 177/97(124)} mmHg
   RR: 28 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                  6,111 mL
                                                                    331 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  4,961 mL
                                                                    331 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,530 mL
                                                                    450 mL
   Urine:
                                                                  2,530 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,581 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.51/36/123/28/4
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, refusing to cooperate
   with exam
   Head, Ears, Nose, Throat: flushed, decreased swelling OD conjunctiva
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   8.8 g/dL
   116 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.2 mEq/L
   10 mg/dL
   98 mEq/L
   133 mEq/L
   23.2 %
   2.0 K/uL
        [image002.jpg]
                             [**2165-10-2**]  02:58 PM
                             [**2165-10-2**]  06:05 PM
                             [**2165-10-2**]  07:03 PM
                             [**2165-10-2**]  10:35 PM
                             [**2165-10-3**]  12:30 AM
                             [**2165-10-3**]  05:46 AM
                             [**2165-10-3**]  05:50 AM
                             [**2165-10-3**]  10:07 AM
                             [**2165-10-3**]  01:53 PM
                             [**2165-10-4**]  03:08 AM
   WBC
   1.7
   2.0
   2.0
   Hct
   20.5
   22.1
   25.1
   23.2
   Plt
   80
   89
   82
   Cr
   1.0
   1.0
   0.9
   TCO2
   22
   24
   25
   27
   28
   Glucose
   107
   118
   116
   Other labs: PT / PTT / INR:12.4/27.1/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 401**]//, ALT / AST:242/586, Alk Phos / T Bili:73/1.2,
   Amylase / Lipase:72/45, Differential-Neuts:57.0 %, Band:7.0 %,
   Lymph:21.0 %, Mono:13.0 %, Eos:0.0 %, D-dimer:2257 ng/mL,
   Fibrinogen:367 mg/dL, Albumin:3.1 g/dL, LDH:837 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Assessment & Plan:63 y/o M with PMHX of MM s/p autologous stem cell
   transplant in 05 presented foot pain and elevated CKs taken the OR
   emergently for fasciotomy due to compartment syndrome, now s/p cardiac
   arrest and emergency tracheotomy.
   .
   # Resp failure: Pt was transferred to ICU s/p cardiac arrest with
   emergency trach and was initially requiring alot of support from vent
   to maintain oxygenation but now weaning quickly.  There was likely a
   component of negative inspiratory pressure pulm edema as seen by
   perihilar fullness on CXR.  This is also suggested by the fact that pt
   weaning quickly from initially high O2 requirement. Also with some
   increased secretions from emergency trach and blood in airways.
   Etiology of tongue swelling early on [**10-1**] and impressive upper airway
   edema seen by Anesthesia impeding the ability to re-intubate is
   unclear. [**Name2 (NI) 11**] have some component of airway collapse and tongue swelling
   from hypothyroidism. Baseline, pt is a Mallampati class III and may
   have pharyngeal airway collapse complicating picture.  Now have
   definite airway with trach, will hold off on steroids for now given
   immunosuppression.
   - no evidence of right heart strain on echo to suggest PE
   - patient was weaned off ventilator, now just using trach, mental
   status and respiratory drive good
   - continue aggressive suction
   - will need trach cuff change to smaller size which cannot occur until
   7-14 days after initial trach placement
   - Alb/atrovent nebs
   .
   # s/p Cardiac Arrest: Etiology unclear, s/p epinephrine x1, CPR for 3
   minutes, may have been due to acute upper airway swelling and hypoxia
   causing cardiac arrest/bradycardia. Pt had rapid return of perfusing
   rhythm.  There was significant concern for initial poor neurologic
   status post code, however, pt has now had return of neuro function and
   following commands. Suspect that meds given peri code contributed to
   poor neuro status initially, now clearing.
   - persistently low Calcium despite repletion, continue aggressive
   repletion
   - patient is now awake, alert, responsive
   - etiology of arrest likely hypoxia, with upper airway swelling likely
   secondary to myxedema from hypothryoidism
   - echo did not show any evidence of right heart strain, mild LV
   hypertrophy, LVEF 50-55% with dilated aortic root, ascending aorta
   moderately dilated, small pericardial effusion
   - goal is to maintain MAP > 60 and maintain urine output > 100 cc/hr
   # Compartment Syndrome with abscess: Pt has now had definitive surgical
   intervention with fasciotomy and frank pus found after opening
   compartments.  Deep cultures were sent intra-op
   - now s/p fasciotomy to right leg as well for elevated pressures
   - continue Cefepime for skin flora and ?immunocomp state, will cover
   gram negatives until cultures return, then narrow Abx
   - culture data all no growth to date, peeled off vancomycin yesterday,
   will d/c clindamycin todaoy
   - west [**Doctor First Name **] serology pending, stool enterovirus pending, ebv viral
   load, ebv, cmv, hav, hbv, hcv, lyme [**Doctor Last Name 376**] serologies
   - see below for furthru infectious etiology
   - dressing changes per Vascular
   .
   # Hyponatremia: Pt presented with hyponatremia likely  secondary to
   hypothyroidism or from effective volume depletion, in the setting of
   compartment syndomre.
   -hyponatremia improved today
   - continue NS IVF at 100cc/hr
   - urine lytes
 Urea 257 Cr 51 Na 13 K 31
   - serum osms 258
   - continue to treat hypothyroidism, as per endocrine will continue
   current dosing
   .
   # Multiple Myelomma: Pt has been on Revlimid which may have been
   contributing to hypothyroidism on admission.  Anemia & thrombocytopenia
   on admission likely due to marrow suppression from treatment.
   - holding Revlimid currently
   - f/u Onc recs
   .
   # Elevated CK/Rhabdo: This was likely all secondary to compartment
   syndrome with intracompartment abcess, now s/p fasciotomy
   - continue aggressive IVF,  given persistently elevated CKs, previously
   alkalinization of the urine leading to elevated pH, now switched back
   to NS at 100 cc/hr
   - creatine has been stable, no evidence of acute renal failuer,
   follow-up renal recs
   - continue local wound care per vasc
   .
   Infectious work-up: Concern for infection as initial etiology of
   rhabdomylosis, completing full work-up as per ID.
   - wound culture from the OR:
GRAM STAIN (Final [**2165-10-1**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
WOUND CULTURE (Final [**2165-10-3**]):    NO GROWTH.
ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
ACID FAST SMEAR (Final [**2165-10-2**]):
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
ACID FAST CULTURE (Preliminary):
FUNGAL CULTURE (Preliminary):
      NO FUNGUS ISOLATED.
      A swab is not the optimal specimen for recovery of mycobacteria or
      filamentous fungi.  A negative result should be interpreted with
      caution.  Whenever possible tissue biopsy or aspirated fluid should
      be submitted.
   -west nile virus pending
   - cmv pending
   Stool viral culture pending
   Throat viral culture pending
   hepC antibody negative
   hep A antibody POS
   from [**2162**], hep B surfaceb Ab +, hep B core antibody POS
   -          sputum culture
 > 25 PMNs, < 10 Epis, 1+ yeast
   -          urine cx  NG
   -          muscle cx from OR
 no virus isolated so far
   # LFT abnormalities: Elevated transaminases & elevated LDH in setting
   of acute rhabdo. Baseline LFTs normal but does have history of +
   hepatitis B in the past, now with + hep A antibody, unclear if IgM or
   IgG at this point.  Etiology of elevated LFTs is either viral vs.
   secondary to rhabdomylsis. Suspect that may continue to worsen today as
   patient is s/p cardiac arrest.
   - hep A antibody [**Last Name (LF) 400**], [**First Name3 (LF) 116**] send for IgM levels
   - LFTs remain elevated in the setting of continued CK elevation, which
   may be muscle only
   - remainder of hep serologies pending
   - ID work- up as above
   - tox screen negative
   .
   # Anemia: Hct was 34.7 on admission, which has trended down .This is
   likely complicated by underlying abnormal bone marrow on revlimid for
   MM and intra-operative blood loss.
   - will continue to transfuse and try to maintainhct>25
   .
   # Hypothyroidism: Pt profoundly hypothyroid with TSH>50 and low T4.
   This may be contributing to tongue swelling on admission.
   -          continue Levothyroxine 200mg IV daily
   -          think that profound hypothyroidism in the context of statin
   use may have caused presentation
   -          will check repeat TSH, free T3, free T4 in 1 week, cortisol
   level WNL
   -          tapering steroids as per endocrine
   .
   # FEN:
   - speech/swallow eval cleared patient for thin liquids and soft
   dysphagic diet, however patient is requesting pureed diet as right now
   he doesn
t have his dentures
   - can advance diet to dysphagic once patient has dentures
   - NS fluid 150 cc/hr to maintain UOP > 100 cc/hr
   - aggressive repletion of lytes
   .
   # Access:
   -          - currently with PICC line, 1 peripheral IV, previously had
   right femoral line placed during code under non-sterile conditions
   during code which was removed
   .
   # PPx: Pneumoboots, H2 Blocker, Colace, mouth care
   .
   # Code: FULL
   .
   # Dispo: Consider transfer to floor today
   .
   # Comm: husband [**Name (NI) 366**] [**Name (NI) 367**] (h) [**Telephone/Fax (1) 370**], (w) [**Telephone/Fax (1) 371**], (c)[**Telephone/Fax (1) 372**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   20 Gauge - [**2165-10-1**] 08:00 PM
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-04 10:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, had some changes in mental status. Now improved. Otherwise,
   no new problems.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2165-10-3**] 11:00 AM
   FROM OR
   History obtained from Patient but limited by trach in place and unable
   to talk
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-10-3**] 09:17 AM
   Ciprofloxacin - [**2165-10-3**] 08:00 PM
   Clindamycin - [**2165-10-3**] 09:56 PM
   Doxycycline - [**2165-10-3**] 11:00 PM
   Cefipime - [**2165-10-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-4**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No new complaints
   Flowsheet Data as of  [**2165-10-4**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 81 (68 - 100) bpm
   BP: 132/66(86) {110/56(72) - 177/97(124)} mmHg
   RR: 21 (20 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                  6,111 mL
                                                                    559 mL
   PO:
                                                                    400 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,961 mL
                                                                    439 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,530 mL
                                                                    665 mL
   Urine:
                                                                  2,530 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,581 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.51///28/
   Physical Examination
   Awake, no acute distress
   Chest: CTA  bilaterally
   Heart: S1 S2 reg
   Neuro: alert, no focal neuro findings.
   Abd: soft, NT ND
   Skin: warm, dry,
   Extrem: +1 edema
   Labs / Radiology
   8.8 g/dL
   82 K/uL
   116 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.2 mEq/L
   10 mg/dL
   98 mEq/L
   133 mEq/L
   23.2 %
   2.0 K/uL
        [image002.jpg]
                             [**2165-10-2**]  02:58 PM
                             [**2165-10-2**]  06:05 PM
                             [**2165-10-2**]  07:03 PM
                             [**2165-10-2**]  10:35 PM
                             [**2165-10-3**]  12:30 AM
                             [**2165-10-3**]  05:46 AM
                             [**2165-10-3**]  05:50 AM
                             [**2165-10-3**]  10:07 AM
                             [**2165-10-3**]  01:53 PM
                             [**2165-10-4**]  03:08 AM
   WBC
   1.7
   2.0
   2.0
   Hct
   20.5
   22.1
   25.1
   23.2
   Plt
   80
   89
   82
   Cr
   1.0
   1.0
   0.9
   TCO2
   22
   24
   25
   27
   28
   Glucose
   107
   118
   116
   Other labs: PT / PTT / INR:12.4/27.1/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 415**]//, ALT / AST:242/586, Alk Phos / T Bili:73/1.2,
   Amylase / Lipase:72/45, Differential-Neuts:57.0 %, Band:7.0 %,
   Lymph:21.0 %, Mono:13.0 %, Eos:0.0 %, D-dimer:2257 ng/mL,
   Fibrinogen:367 mg/dL, Albumin:3.1 g/dL, LDH:837 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   1)       Rhabdomyolysis: likely secondary to statins in the background
   of hypothryoidism
   Plan:
   -          will change fluids back to normal saline
   -          serial CPKs
   -          de-escalate/discontinue antibiotics (will discuss with ID)
   2)       Resp Failure: stable overnight and not requiring ventilator
   any longer
   3)       Transient delirium: currently oriented. [**Month (only) 11**] have been
   secondary to steroids. Will reduce dose
   4)       Hypothyroidism:
   Plan: Decrease steroid dose; continue synthroid
   5)       ID
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   20 Gauge - [**2165-10-1**] 08:00 PM
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2165-10-05 08:18:00 Physician Resident Progress Note
Chief Complaint: profound hypothyroidism likely leading to b/l
   comparment syndrome as well as laryngeal swelling which led to emergent
   trach
   24 Hour Events:
   overnight patient got again combative with nursing. required
   restraints. yanking catheer out. Patient with loose watery stool,
   nursing concerned that possible impaction. got suppository overnight.
   Patient denies any pain issues at this time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-10-3**] 09:17 AM
   Ciprofloxacin - [**2165-10-3**] 08:00 PM
   Clindamycin - [**2165-10-3**] 09:56 PM
   Cefipime - [**2165-10-4**] 08:00 AM
   Doxycycline - [**2165-10-4**] 10:24 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-5**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-5**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 87 (76 - 96) bpm
   BP: 209/205(207) {106/45(64) - 209/205(222)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                  3,321 mL
                                                                    802 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  2,678 mL
                                                                    802 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  1,534 mL
                                                                    500 mL
   Urine:
                                                                  1,534 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,787 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.48/40/76.[**Numeric Identifier 433**]/25/4
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.9 g/dL
   90 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   10 mg/dL
   100 mEq/L
   135 mEq/L
   24.5 %
   2.8 K/uL
        [image002.jpg]
                             [**2165-10-3**]  12:30 AM
                             [**2165-10-3**]  05:46 AM
                             [**2165-10-3**]  05:50 AM
                             [**2165-10-3**]  10:07 AM
                             [**2165-10-3**]  01:53 PM
                             [**2165-10-4**]  03:08 AM
                             [**2165-10-4**]  11:11 AM
                             [**2165-10-4**]  05:17 PM
                             [**2165-10-4**]  05:39 PM
                             [**2165-10-5**]  03:13 AM
   WBC
   1.7
   2.0
   2.0
   3.0
   2.8
   Hct
   20.5
   22.1
   25.1
   23.2
   26.2
   24.5
   Plt
   80
   89
   82
   77
   93
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   27
   28
   31
   30
   Glucose
   118
   116
   91
   90
   Other labs: PT / PTT / INR:12.4/27.1/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 434**]//, ALT / AST:239/472, Alk Phos / T Bili:106/1.3,
   Amylase / Lipase:50/52, Differential-Neuts:61.0 %, Band:3.0 %,
   Lymph:19.0 %, Mono:15.0 %, Eos:2.0 %, D-dimer:2257 ng/mL,
   Fibrinogen:367 mg/dL, Albumin:3.0 g/dL, LDH:857 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment & Plan:63 y/o M with PMHX of MM s/p autologous stem cell
   transplant in 05 presented foot pain and elevated CKs taken the OR
   emergently for fasciotomy due to compartment syndrome, now s/p cardiac
   arrest and emergency tracheotomy.
   # Resp failure: Pt was transferred to ICU s/p cardiac arrest with
   emergency trach and was initially requiring alot of support from vent
   to maintain oxygenation but now weaning quickly.  There was likely a
   component of negative inspiratory pressure pulm edema as seen by
   perihilar fullness on CXR.  This is also suggested by the fact that pt
   weaning quickly from initially high O2 requirement. Also with some
   increased secretions from emergency trach and blood in airways.
   Etiology of tongue swelling early on [**10-1**] and impressive upper airway
   edema seen by Anesthesia impeding the ability to re-intubate is
   unclear. [**Name2 (NI) 11**] have some component of airway collapse and tongue swelling
   from hypothyroidism. Baseline, pt is a Mallampati class III and may
   have pharyngeal airway collapse complicating picture.  Now have
   definite airway with trach, will hold off on steroids for now given
   immunosuppression.
   - no evidence of right heart strain on echo to suggest PE
   - patient was weaned off ventilator, now just using trach, mental
   status and respiratory drive good
   - continue aggressive suction
   - will need trach cuff change to smaller size which cannot occur until
   7-14 days after initial trach placement
   - Alb/atrovent nebs
   # s/p Cardiac Arrest: Etiology unclear, s/p epinephrine x1, CPR for 3
   minutes, may have been due to acute upper airway swelling and hypoxia
   causing cardiac arrest/bradycardia. Pt had rapid return of perfusing
   rhythm.  There was significant concern for initial poor neurologic
   status post code, however, pt has now had return of neuro function and
   following commands. Suspect that meds given peri code contributed to
   poor neuro status initially, now clearing.
   - persistently low Calcium despite repletion, continue aggressive
   repletion
   - patient is now awake, alert, responsive
   - etiology of arrest likely hypoxia, with upper airway swelling likely
   secondary to myxedema from hypothryoidism
   - echo did not show any evidence of right heart strain, mild LV
   hypertrophy, LVEF 50-55% with dilated aortic root, ascending aorta
   moderately dilated, small pericardial effusion
   - goal is to maintain MAP > 60 and maintain urine output > 100 cc/hr
   # Compartment Syndrome with abscess: Pt has now had definitive surgical
   intervention with fasciotomy and frank pus found after opening
   compartments.  Deep cultures were sent intra-op
   - now s/p fasciotomy to right leg as well for elevated pressures
   - continue Cefepime for skin flora and ?immunocomp state, will cover
   gram negatives until cultures return, then narrow Abx
   - culture data all no growth to date, peeled off vancomycin yesterday,
   will d/c clindamycin todaoy
   - west [**Doctor First Name **] serology pending, stool enterovirus pending, ebv viral
   load, ebv, cmv, hav, hbv, hcv, lyme [**Doctor Last Name 376**] serologies
   - see below for furthru infectious etiology
   - dressing changes per Vascular
   .
   # Hyponatremia: Pt presented with hyponatremia likely  secondary to
   hypothyroidism or from effective volume depletion, in the setting of
   compartment syndomre.
   -hyponatremia improved today
   - continue NS IVF at 100cc/hr
   - urine lytes
 Urea 257 Cr 51 Na 13 K 31
   - serum osms 258
   - continue to treat hypothyroidism, as per endocrine will continue
   current dosing
   .
   # Multiple Myelomma: Pt has been on Revlimid which may have been
   contributing to hypothyroidism on admission.  Anemia & thrombocytopenia
   on admission likely due to marrow suppression from treatment.
   - holding Revlimid currently
   - f/u Onc recs
   .
   # Elevated CK/Rhabdo: This was likely all secondary to compartment
   syndrome with intracompartment abcess, now s/p fasciotomy
   - continue aggressive IVF,  given persistently elevated CKs, previously
   alkalinization of the urine leading to elevated pH, now switched back
   to NS at 100 cc/hr
   - creatine has been stable, no evidence of acute renal failuer,
   follow-up renal recs
   - continue local wound care per vasc
   .
   Infectious work-up: Concern for infection as initial etiology of
   rhabdomylosis, completing full work-up as per ID.
   - wound culture from the OR:
   GRAM STAIN (Final [**2165-10-1**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   WOUND CULTURE (Final [**2165-10-3**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   ACID FAST SMEAR (Final [**2165-10-2**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
   ACID FAST CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
         NO FUNGUS ISOLATED.
         A swab is not the optimal specimen for recovery of mycobacteria
   or
         filamentous fungi.  A negative result should be interpreted with
         caution.  Whenever possible tissue biopsy or aspirated fluid
   should
         be submitted.
   -west nile virus pending
   - cmv pending
   Stool viral culture pending
   Throat viral culture pending
   hepC antibody negative
   hep A antibody POS
   from [**2162**], hep B surfaceb Ab +, hep B core antibody POS
   -  sputum culture
 > 25 PMNs, < 10 Epis, 1+ yeast
   - urine cx  NG
   - muscle cx from OR
 no virus isolated so far
    # LFT abnormalities: Elevated transaminases & elevated LDH in setting
   of acute rhabdo. Baseline LFTs normal but does have history of +
   hepatitis B in the past, now with + hep A antibody, unclear if IgM or
   IgG at this point.  Etiology of elevated LFTs is either viral vs.
   secondary to rhabdomylsis. Suspect that may continue to worsen today as
   patient is s/p cardiac arrest.
   - hep A antibody [**Last Name (LF) 400**], [**First Name3 (LF) 116**] send for IgM levels
   - LFTs remain elevated in the setting of continued CK elevation, which
   may be muscle only
   - remainder of hep serologies pending
   - ID work- up as above
   - tox screen negative
   .
   # Anemia: Hct was 34.7 on admission, which has trended down .This is
   likely complicated by underlying abnormal bone marrow on revlimid for
   MM and intra-operative blood loss.
   - will continue to transfuse and try to maintainhct>25
   .
   # Hypothyroidism: Pt profoundly hypothyroid with TSH>50 and low T4.
   This may be contributing to tongue swelling on admission.
   -    continue Levothyroxine 200mg IV daily
   -  think that profound hypothyroidism in the context of statin use may
   have caused presentation
   -   will check repeat TSH, free T3, free T4 in 1 week, cortisol level
   WNL
   -  tapering steroids as per endocrine
   .
   # FEN:
   - speech/swallow eval cleared patient for thin liquids and soft
   dysphagic diet, however patient is requesting pureed diet as right now
   he doesn
t have his dentures
   - can advance diet to dysphagic once patient has dentures
   - NS fluid 150 cc/hr to maintain UOP > 100 cc/hr
   - aggressive repletion of lytes
   .
   # Access:
   -  currently with PICC line, 1 peripheral IV, previously had right
   femoral line placed during code under non-sterile conditions during
   code which was removed
   .
   # PPx: Pneumoboots, H2 Blocker, Colace, mouth care
   .
   # Code: FULL
   # Dispo: Consider transfer to floor today
   # Comm: husband [**Name (NI) 366**] [**Name (NI) 367**] (h) [**Telephone/Fax (1) 370**], (w) [**Telephone/Fax (1) 371**], (c)[**Telephone/Fax (1) 372**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-10-1**] 08:00 PM
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical exam was not included on previous note by accident:
   Vitals as above
   General
 awake, trach mask in place, cooperative with exam
   Cards
 RRR, nl s1/s2, no murmurs, rubs, or gallops appreciated
   Pulm
 anterior auscultation only, sounds grossly clear
   Abdomen
 diffusely distended, tense, hypoactive bowel sounds, no
   guarding or rebounding, non-tender to palpation
   Extremities
 dressings in place bilaterally over fasciotomy sites
   apparently with copious drainage, yesterday wounds appeared clean, 2+
   radial pulses, DP pulses difficult to appreciate secondary to edema, 2+
   pitting edema in feet bilaterally
   Abdominal x-ray
 KUB demonstrating dilated loops of bowel 8.6 cm in
   diameter however film was not great
   Will continue to assess abdominal exam and also consider involving
   surgery in management of his abdomen
   ------ Protected Section Addendum Entered By:[**Name (NI) 436**] [**Name8 (MD) 437**], MD
   on:[**2165-10-5**] 10:35 ------

2165-10-06 06:57:00 Physician Resident Progress Note
Chief Complaint: hypoxia/pulseless arrest s/p emergency tracheotomy
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-10-5**] 10:40 PM
   - patient had to be restrained overnight for continued combative
   behavior- likely sundowning as pt gets better w/orientation
   - abdomen tense, KUB showed dilated SB possibly colon to 9cm-- had
   large BM and belly was soft afterwards
   - was going to start zosyn/vanco for open wounds but ID did not
   approve; tomorrow likely will get wound vac
   - lovenox for PE ppx
   - discussed when he will be candidate for downsizing of trach tube -
   likely early next week per attending.
   -CK down to 9800s- gave 10mg IV lasix x1 for diuresis
   -again agitated at night- pulled and broke (yes broke) the foley in
   half. foley replaced. written for haldol qhs:prn
   -art line not [**Location (un) 103**] accurately, d/c's by nursing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-10-3**] 09:17 AM
   Ciprofloxacin - [**2165-10-3**] 08:00 PM
   Clindamycin - [**2165-10-3**] 09:56 PM
   Cefipime - [**2165-10-4**] 08:00 AM
   Doxycycline - [**2165-10-4**] 10:24 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-5**] 10:21 PM
   Famotidine (Pepcid) - [**2165-10-6**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-6**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 90 (82 - 104) bpm
   BP: 172/88(109) {115/56(74) - 172/133(137)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                  2,606 mL
                                                                    674 mL
   PO:
             TF:
   IVF:
                                                                  2,606 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  2,869 mL
                                                                    800 mL
   Urine:
                                                                  2,869 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   98 K/uL
   9.3 g/dL
   93 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   13 mg/dL
   102 mEq/L
   138 mEq/L
   25.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2165-10-3**]  10:07 AM
                             [**2165-10-3**]  01:53 PM
                             [**2165-10-4**]  03:08 AM
                             [**2165-10-4**]  11:11 AM
                             [**2165-10-4**]  05:17 PM
                             [**2165-10-4**]  05:39 PM
                             [**2165-10-5**]  03:13 AM
                             [**2165-10-5**]  06:17 PM
                             [**2165-10-5**]  09:52 PM
                             [**2165-10-6**]  02:46 AM
   WBC
   2.0
   2.0
   3.0
   2.8
   4.3
   Hct
   25.1
   23.2
   26.2
   24.5
   25.8
   Plt
   89
   82
   77
   93
   98
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   TCO2
   28
   31
   30
   Glucose
   116
   91
   90
   86
   93
   Other labs: PT / PTT / INR:12.4/27.1/1.0, CK / CKMB /
   Troponin-T:9869//, ALT / AST:239/472, Alk Phos / T Bili:106/1.3,
   Amylase / Lipase:50/52, Differential-Neuts:61.0 %, Band:3.0 %,
   Lymph:19.0 %, Mono:15.0 %, Eos:2.0 %, D-dimer:2257 ng/mL,
   Fibrinogen:367 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:857
   IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assessment & Plan:63 y/o M with PMHX of MM s/p autologous stem cell
   transplant in 05 presented foot pain and elevated CKs taken the OR
   emergently for fasciotomy due to compartment syndrome, now s/p cardiac
   arrest and emergency tracheotomy.
   # Resp failure: Pt was transferred to ICU s/p cardiac arrest with
   emergency trach and was initially requiring alot of support from vent
   to maintain oxygenation but now weaning quickly.  There was likely a
   component of negative inspiratory pressure pulm edema as seen by
   perihilar fullness on CXR.  This is also suggested by the fact that pt
   weaning quickly from initially high O2 requirement. Also with some
   increased secretions from emergency trach and blood in airways.
   Etiology of tongue swelling early on [**10-1**] and impressive upper airway
   edema seen by Anesthesia impeding the ability to re-intubate is
   unclear. [**Name2 (NI) 11**] have some component of airway collapse and tongue swelling
   from hypothyroidism. Baseline, pt is a Mallampati class III and may
   have pharyngeal airway collapse complicating picture.  Now have
   definite airway with trach, will hold off on steroids for now given
   immunosuppression.
   - no evidence of right heart strain on echo to suggest PE
   - patient was weaned off ventilator, now just using trach, mental
   status and respiratory drive good
   - continue aggressive suction
   - will need trach cuff change to smaller size which cannot occur until
   7-14 days after initial trach placement
   - Alb/atrovent nebs
   # s/p Cardiac Arrest: Etiology unclear, s/p epinephrine x1, CPR for 3
   minutes, may have been due to acute upper airway swelling and hypoxia
   causing cardiac arrest/bradycardia. Pt had rapid return of perfusing
   rhythm.  There was significant concern for initial poor neurologic
   status post code, however, pt has now had return of neuro function and
   following commands. Suspect that meds given peri code contributed to
   poor neuro status initially, now clearing.
   - persistently low Calcium despite repletion, continue aggressive
   repletion
   - patient is now awake, alert, responsive
   - etiology of arrest likely hypoxia, with upper airway swelling likely
   secondary to myxedema from hypothryoidism
   - echo did not show any evidence of right heart strain, mild LV
   hypertrophy, LVEF 50-55% with dilated aortic root, ascending aorta
   moderately dilated, small pericardial effusion
   - goal is to maintain MAP > 60 and maintain urine output > 100 cc/hr
   # Compartment Syndrome with abscess: Pt has now had definitive surgical
   intervention with fasciotomy and frank pus found after opening
   compartments.  Deep cultures were sent intra-op
   - now s/p fasciotomy to right leg as well for elevated pressures
   - continue Cefepime for skin flora and ?immunocomp state, will cover
   gram negatives until cultures return, then narrow Abx
   - culture data all no growth to date, peeled off vancomycin yesterday,
   will d/c clindamycin todaoy
   - west [**Doctor First Name **] serology pending, stool enterovirus pending, ebv viral
   load, ebv, cmv, hav, hbv, hcv, lyme [**Doctor Last Name 376**] serologies
   - see below for furthru infectious etiology
   - dressing changes per Vascular
   .
   # Hyponatremia: Pt presented with hyponatremia likely  secondary to
   hypothyroidism or from effective volume depletion, in the setting of
   compartment syndomre.
   -hyponatremia improved today
   - continue NS IVF at 100cc/hr
   - urine lytes
 Urea 257 Cr 51 Na 13 K 31
   - serum osms 258
   - continue to treat hypothyroidism, as per endocrine will continue
   current dosing
   .
   # Multiple Myelomma: Pt has been on Revlimid which may have been
   contributing to hypothyroidism on admission.  Anemia & thrombocytopenia
   on admission likely due to marrow suppression from treatment.
   - holding Revlimid currently
   - f/u Onc recs
   .
   # Elevated CK/Rhabdo: This was likely all secondary to compartment
   syndrome with intracompartment abcess, now s/p fasciotomy
   - continue aggressive IVF,  given persistently elevated CKs, previously
   alkalinization of the urine leading to elevated pH, now switched back
   to NS at 100 cc/hr
   - creatine has been stable, no evidence of acute renal failuer,
   follow-up renal recs
   - continue local wound care per vasc
   .
   Infectious work-up: Concern for infection as initial etiology of
   rhabdomylosis, completing full work-up as per ID.
   - wound culture from the OR:
   GRAM STAIN (Final [**2165-10-1**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   WOUND CULTURE (Final [**2165-10-3**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   ACID FAST SMEAR (Final [**2165-10-2**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
   ACID FAST CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
         NO FUNGUS ISOLATED.
         A swab is not the optimal specimen for recovery of mycobacteria
   or
         filamentous fungi.  A negative result should be interpreted with
         caution.  Whenever possible tissue biopsy or aspirated fluid
   should
         be submitted.
   -west nile virus pending
   - cmv pending
   Stool viral culture pending
   Throat viral culture pending
   hepC antibody negative
   hep A antibody POS
   from [**2162**], hep B surfaceb Ab +, hep B core antibody POS
   -  sputum culture
 > 25 PMNs, < 10 Epis, 1+ yeast
   - urine cx  NG
   - muscle cx from OR
 no virus isolated so far
    # LFT abnormalities: Elevated transaminases & elevated LDH in setting
   of acute rhabdo. Baseline LFTs normal but does have history of +
   hepatitis B in the past, now with + hep A antibody, unclear if IgM or
   IgG at this point.  Etiology of elevated LFTs is either viral vs.
   secondary to rhabdomylsis. Suspect that may continue to worsen today as
   patient is s/p cardiac arrest.
   - hep A antibody [**Last Name (LF) 400**], [**First Name3 (LF) 116**] send for IgM levels
   - LFTs remain elevated in the setting of continued CK elevation, which
   may be muscle only
   - remainder of hep serologies pending
   - ID work- up as above
   - tox screen negative
   .
   # Anemia: Hct was 34.7 on admission, which has trended down .This is
   likely complicated by underlying abnormal bone marrow on revlimid for
   MM and intra-operative blood loss.
   - will continue to transfuse and try to maintainhct>25
   .
   # Hypothyroidism: Pt profoundly hypothyroid with TSH>50 and low T4.
   This may be contributing to tongue swelling on admission.
   -    continue Levothyroxine 200mg IV daily
   -  think that profound hypothyroidism in the context of statin use may
   have caused presentation
   -   will check repeat TSH, free T3, free T4 in 1 week, cortisol level
   WNL
   -  tapering steroids as per endocrine
   .
   # FEN:
   - speech/swallow eval cleared patient for thin liquids and soft
   dysphagic diet, however patient is requesting pureed diet as right now
   he doesn
t have his dentures
   - can advance diet to dysphagic once patient has dentures
   - NS fluid 150 cc/hr to maintain UOP > 100 cc/hr
   - aggressive repletion of lytes
   .
   # Access:
   -  currently with PICC line, 1 peripheral IV, previously had right
   femoral line placed during code under non-sterile conditions during
   code which was removed
   .
   # PPx: Pneumoboots, H2 Blocker, Colace, mouth care
   .
   # Code: FULL
   # Dispo: Consider transfer to floor today
   # Comm: husband [**Name (NI) 366**] [**Name (NI) 367**] (h) [**Telephone/Fax (1) 370**], (w) [**Telephone/Fax (1) 371**], (c)[**Telephone/Fax (1) 372**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-07 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    No new problems overnight.  CPK continues to fall.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-6**] 04:00 PM
   Furosemide (Lasix) - [**2165-10-7**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-7**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 77 (69 - 99) bpm
   BP: 103/56(67) {103/56(67) - 155/108(113)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                  1,852 mL
                                                                    481 mL
   PO:
             220 mL
   TF:
   IVF:
                                                                  1,852 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                  1,950 mL
   Urine:
                                                                  1,670 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -218 mL
                                                                 -1,469 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese, trach in place
   Head, Ears, Nose, Throat: Normocephalic, Trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  warm, dry
   Neurologic: alert, no focal neur findings
   Labs / Radiology
   8.6 g/dL
   77 K/uL
   89 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.0 mEq/L
   14 mg/dL
   103 mEq/L
   138 mEq/L
   23.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2165-10-4**]  03:08 AM
                             [**2165-10-4**]  11:11 AM
                             [**2165-10-4**]  05:17 PM
                             [**2165-10-4**]  05:39 PM
                             [**2165-10-5**]  03:13 AM
                             [**2165-10-5**]  06:17 PM
                             [**2165-10-5**]  09:52 PM
                             [**2165-10-6**]  02:46 AM
                             [**2165-10-6**]  06:40 PM
                             [**2165-10-7**]  02:50 AM
   WBC
   2.0
   3.0
   2.8
   4.3
   6.8
   Hct
   23.2
   26.2
   24.5
   25.8
   23.8
   Plt
   82
   77
   93
   98
   77
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   31
   30
   Glucose
   116
   91
   90
   86
   93
   95
   89
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:4828//, ALT / AST:179/176, Alk Phos / T Bili:106/0.9,
   Amylase / Lipase:50/52, Differential-Neuts:63.0 %, Band:2.0 %,
   Lymph:21.0 %, Mono:10.0 %, Eos:2.0 %, D-dimer:2257 ng/mL,
   Fibrinogen:367 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:572
   IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   A:
   1) Respiratory Failure:
   Plan:
   - continues to remain stable off ventilator and has been off ventilator
   for days.  Thus, safe for transfer to the floor.
   2) Rhabdomyolysis:
   - off fluids and CPK continues to fall
   3) Compartment syndrome:  surgery to change to wound vacs
   4) Multiple myeloma: stable
   5) Anemia:
   6) Hypothroidism:
   - steroid taper and stop today/tomorrow
   7) FEN:
   8) Diarrhea:
   - check c. dificile
   Addendum: Shortly after rounds, patient had an episode of
   unresponsiveness.  On exam, had some eye deviation but no tonic-clonic
   movements.  He was somewhat flaccid bilaterally on initial exam
   although when arm lifted above his head, he moved it to the side as it
   fell.  Trach was in place so airway was not an issue and arterial blood
   gas was normal.  HCT, MRI, and EEG all performed and were negative and
   patient has now improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  35 minutes (patient is critically ill
 see
   addendum)

2165-10-08 10:35:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    - Yesterday, had an episode of unresponsiveness.  Head CT scan, MRI,
   EEG are all negative and patient is now alert and oriented.
   24 Hour Events:
 EEG - At [**2165-10-7**] 06:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2165-10-7**] 06:05 PM
   brain
 BLOOD CULTURED - At [**2165-10-7**] 09:30 PM
   blood c/s 1 of 2
 URINE CULTURE - At [**2165-10-7**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2165-10-8**] 05:30 AM
   Vancomycin - [**2165-10-8**] 06:00 AM
   Cefipime - [**2165-10-8**] 07:56 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Med list reviewed - See [**Month (only) **] for details
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-8**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 83 (69 - 83) bpm
   BP: 111/55(74) {104/55(70) - 140/74(89)} mmHg
   RR: 22 (17 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.5 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                    860 mL
                                                                    651 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                    540 mL
                                                                    651 mL
   Blood products:
   Total out:
                                                                  2,443 mL
                                                                  1,405 mL
   Urine:
                                                                  2,343 mL
                                                                    755 mL
   NG:
   Stool:
   650 mL
   Drains:
   Balance:
                                                                 -1,583 mL
                                                                   -754 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 96%
   ABG: 7.47/43/104/27/6
   PaO2 / FiO2: 260
   Physical Examination
   Gen: Awake, alert NAD
   HEENT: Trach in place
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: A and O x 3; no focal neuro findings
   Labs / Radiology
   8.2 g/dL
   74 K/uL
   84 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   23.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2165-10-4**]  05:39 PM
                             [**2165-10-5**]  03:13 AM
                             [**2165-10-5**]  06:17 PM
                             [**2165-10-5**]  09:52 PM
                             [**2165-10-6**]  02:46 AM
                             [**2165-10-6**]  06:40 PM
                             [**2165-10-7**]  02:50 AM
                             [**2165-10-7**]  02:15 PM
                             [**2165-10-7**]  09:04 PM
                             [**2165-10-8**]  05:05 AM
   WBC
   2.8
   4.3
   6.8
   8.0
   8.6
   Hct
   24.5
   25.8
   23.8
   23.9
   23.4
   Plt
   93
   98
   77
   81
   74
   Cr
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   32
   Glucose
   90
   86
   93
   95
   89
   82
   84
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:4828//, ALT / AST:179/176, Alk Phos / T Bili:106/0.9,
   Amylase / Lipase:50/52, Differential-Neuts:63.0 %, Band:2.0 %,
   Lymph:21.0 %, Mono:10.0 %, Eos:2.0 %, D-dimer:2257 ng/mL,
   Fibrinogen:367 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:572
   IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A:
   1) Transient unresponsiveness:
   Plan:
   - HCT, MRI, EEG
   - LP
   - Discontinue Cefepime as there is no sign of systemic infection and
   event would not be consistent with acute infection
   2) Abdominal Distension
   Plan:
   - Continue to check C. dif
   - Abd. CT scan
   3) Respiratory Failure:
   Plan:
   - improved
 no respiratory issues at this time
   4) Rhabdomyolysis:
   Plan: Improved
   5) Anemia:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-10-2**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To floor
   Total time spent:  35 minutes